US06159981
c) 3-(2-Hydroxyethyl)-6-ethyl-3,4,5,6,7,8-hexahydropyrido[3',4':4,5]thieno[2,3-d]pyrimidin-4-one
5.0 ml (81 mM [sic]) of ethanolamine were added to 17.0 g (55 mM [sic]) of 2-ethoxymethyleneamino-3-carboethoxy-5-ethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine in 130 ml of ethanol and then refluxed for 2 h. The mixture was then concentrated to a volume of about 50 ml and stirred in an ice bath. The precipitated fine solid was filtered off with suction and washed with cold ethyl acetate. 10.5 g (63%) of pale brown product were isolated.

reactant | ethanolamine | 81 mM, 5.0 ml | C(O)CN | C2H7NO
reactant | 2-ethoxymethyleneamino-3-carboethoxy-5-ethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 55 mM, 17.0 g | C(C)OC=NC1=C(C=2CN(CCC2S1)CC)C(=O)OCC | C15H22N2O3S
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 3-(2-Hydroxyethyl)-6-ethyl-3,4,5,6,7,8-hexahydropyrido[3',4':4,5]thieno[2,3-d]pyrimidin-4-one | 10.5 g, 63% | OCCN1C=NC2=C(C1=O)C1=C(S2)CCN(C1)CC | C13H17N3O2S
